### PR TITLE
[Merged by Bors] - feat(Algebra/TrivSqZeroExt): generalize some results to `Invertible`

### PR DESCRIPTION
**Pull request by eric-wieser**
I think this probably raises that a more general approach to handling partial inverses is needed soon, since it duplicates lots of the `Matrix` logic.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/TrivSqZeroExt.lean [hunk 1]
```diff
@@ -754,10 +754,62 @@ instance instInv : Inv (tsze R M) :=
...
+theorem snd_invOf (x : tsze R M) [Invertible x] [Invertible x.fst] :
+    (⅟x).snd = -(⅟x.fst •> x.snd <• ⅟x.fst) := by
+  letI := invertibleOfInvertibleFst x
+  convert congr_arg (TrivSqZeroExt.snd (R := R) (M := M)) (_ : _ = ⅟ x)
+  convert rfl
+
+/-- Together `TrivSqZeroExt.detInvertibleOfInvertible` and `TrivSqZeroExt.invertibleOfDetInvertible`
+form an equivalence, although both sides of the equiv are subsingleton anyway. -/
+@[simps]
+def invertibleEquivInvertibleFst (x : tsze R M) : Invertible x ≃ Invertible x.fst where
```
Comment (j-loreaux) [inline Mathlib/Algebra/TrivSqZeroExt.lean:793]: Can you explain why this whole PR is phrased in terms of `Invertible` and there's no mention of `Units`? I'm probably missing something very obvious. After you explain and I understand I'll have another look.

Comment (j-loreaux) [reply Mathlib/Algebra/TrivSqZeroExt.lean:756]: That's fine. The existing statements you have about units are sufficient.

**Comment by j-loreaux** [comment]
bors merge
